US08980888B2
Synthesis of (S)-4-(4-(difluoromethyl)thiazol-2-yl)-1-methyl-N-(2-(2-methylpyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-5-carboxamide
An (S)-2-methylpyrrolidine (0.5 ml) solution of the N-(2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-4-(4-(difluoromethyl)thiazol-2-yl)-1-methyl-1H-pyrazole-5-carboxamide (30 mg) synthesized in (Example 3.15) <Step 6> was stirred under microwave heating at 150° C. for 1 hour. Thereafter, ethyl acetate (20 ml) was added to the reaction solution, and the mixed solution was successively washed with water (15 ml) twice and with a saturated saline (10 ml) once, and was then dried over anhydrous sodium sulfate. The solvent was distilled away under reduced pressure, and the obtained residue was then purified by silica gel column chromatography (silica gel:eluent; heptane:ethyl acetate=40:60), so as to obtain the title compound (13 mg) in the form of a light yellow solid.

reactant | (S)-2-methylpyrrolidine | 0.5 ml | C[C@@H]1NCCC1 | C5H11N
reactant | N-(2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-4-(4-(difluoromethyl)thiazol-2-yl)-1-methyl-1H-pyrazole-5-carboxamide | 30 mg | BrC1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C=2SC=C(N2)C(F)F)=N1 | C15H10BrF2N7OS
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (S)-4-(4-(difluoromethyl)thiazol-2-yl)-1-methyl-N-(2-(2-methylpyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-5-carboxamide | 13 mg | FC(C=1N=C(SC1)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1)N=C(N2)N2[C@H](CCC2)C)C)F | C20H20F2N8OS
